US06583135B2
Preparation of tert-Butyl 8,10-Dichloro-6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
A solution of tert-butyl 8,10-dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (3.0 g, 6.8 mmol) in dry THF (30 mL) was cooled to 0° C. Then, LiBH4 (0.74 g, 34 mmol) was added and the reaction was allowed to warm slowly to rt. After 24 h, the reaction was diluted with H2O (75 mL) followed by addition of 10% aqueous NaOH (30 mL) and extraction with EtOAc (3×100 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified by column chromatography (Biotage, 40M, SIM) with heptane/EtOAc (1:1) followed by crystallization from EtOAc/heptane gave 1.6 g (58%) of a white solid: mp 166.5-167.0° C.; IR (diffuse reflectance) 3462, 1665, 1458, 1426, 1367, 1362, 1342, 1264, 1249, 1165, 1115, 1081, 931, 828, 820 cm−1; MS (EI) m/z 398 (M+), 398, 342, 341, 298, 270, 268, 258, 256, 57, 56; Anal. Calcd for C19H24Cl2N2O3: C, 57.15; H, 6.06; N, 7.01; found: C, 57.08; H, 6.08; N, 6.97.

reactant | tert-butyl 8,10-dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 6.8 mmol, 3.0 g | ClC=1C=C(C=2C3=C(N(C2C1)CC(=O)OCC)CCN(CC3)C(=O)OC(C)(C)C)Cl | C21H26Cl2N2O4
reactant | LiBH4 | 34 mmol, 0.74 g | [Li+].[BH4-]
reactant | NaOH | 30 mL | [OH-].[Na+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | 75 mL | O | H2O
product | tert-Butyl 8,10-Dichloro-6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 1.6 g, 58% | ClC=1C=C(C=2C3=C(N(C2C1)CCO)CCN(CC3)C(=O)OC(C)(C)C)Cl | C19H24Cl2N2O3
